US07816522B2
(181b) 4-[({3-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl)amino]benzonitrile
After adding 600 mg of 2-hydrazinopyrimidine and 1.5 ml of triethylamine to a solution of 3.2 g of (2-{3-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-2-(4-cyanophenylimino)-1-methylsulfanylethylidene)carbamic acid methyl ester in 30 ml of THF, the mixture was stirred overnight at 60° C. under a nitrogen atmosphere. Next, 30 ml of methanol and 4.5 ml of acetic acid were added to the reaction mixture. After then adding 3 g of sodium cyanotrihydroborate to the solution, the mixture was stirred at room temperature for 5 hours. Ethyl acetate was added to the reaction mixture. After washing the organic layer with water and saturated brine, it was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure to give the title compound (3.4 g, crude product) as a light yellow solid.

reactant | 2-hydrazinopyrimidine | 600 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | (2-{3-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-2-(4-cyanophenylimino)-1-methylsulfanylethylidene)carbamic acid methyl ester | 3.2 g | COC(N=C(C(=NC1=CC=C(C=C1)C#N)C1=C(C(=CC(=C1)OC)OCCO[Si](C)(C)C(C)(C)C)F)SC)=O | C27H34FN3O5SSi
reactant | sodium cyanotrihydroborate | 3 g | [B-]C#N.[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
product | 4-[({3-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl)amino]benzonitrile | 3.4 g | [Si](C)(C)(C(C)(C)C)OCCOC=1C(=C(C=C(C1)OC)C(C1=NN(C(N1)=O)C1=NC=CC=N1)NC1=CC=C(C#N)C=C1)F | C29H34FN7O4Si
